US07863025B2
A mixture of Novozym® 435 (2.21 g), molecular sieves (18.60 g), 1-dodecanol (3.76 g), and ethyl mandelate (3.61 g) in a 150 mL beaker was maintained at 60° C. in a convection oven for 28 hours. Upon work-up, 4.0 g of lauryl mandelate (56% yield) was obtained as a clear viscous liquid. The purity of the product was >95% as assessed by HPLC-DAD.

reactant | 1-dodecanol | 3.76 g | C(CCCCCCCCCCC)O | C12H26O
reactant | ethyl mandelate | 3.61 g | C(C(O)C1=CC=CC=C1)(=O)OCC | C10H12O3
product | lauryl mandelate | 4.0 g, 56% yield | C(C(O)C1=CC=CC=C1)(=O)OCCCCCCCCCCCC | C20H32O3
